US04311698
A solution of 2.3 g (5.75 m mol) of the above enamine and 20 ml of DMF is stirred at room temperature and 2.3 g (14.2 m mol) of carbonyldiimidazole is added. The solution is stirred at 50°-60° for 1 hr and then at room temperature overnight. The DMF is evaporated under vacuum and the residue dissolved in 40 ml of dichloromethane. The solution is diluted with 100 ml of ethyl acetate and 100 ml of ether. The precipitated solid is filtered, washed with 1:1 ethyl acetate ether and ether and dried to give 2.2 g of imidazolide. L. A mixture of 19.37 g (0.15 mol) of L-pyroglutamic acid, 11.0 ml (0.15 mol) of thionyl chloride, 11.6 ml (0.15 mol) of DMF, and 350 ml of dichloromethane is stirred at 0°-5° for 70 min. This solution is then added to a cold solution of the silylated derivative of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid prepared by the method of Starting Material I from 23 g (0.1 mol) of the acid, 42 ml (0.3 mol) of triethylamine, 38 ml (0.3 mol) of chlorotrimethylsilane, and 750 ml of dichloromethane. The reaction mixture is stirred at 0°-5° for 1 hr 45 min and then evaporated to dryness. Methanol is added to the residue and evaporated again. Next 500 ml of methanol and 500 ml of water are added and the solid is collected by filtration, washed with warm methanol and with ether. Drying gives 27.84 g of 6-[4-(L-pyroglutamylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid; [α]D23 +15.2 (cl, DMSO).

reactant | L-pyroglutamic acid | 0.15 mol, 19.37 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | thionyl chloride | 0.15 mol, 11.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.15 mol, 11.6 ml | CN(C)C=O | C3H7NO
reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | triethylamine | 0.3 mol, 42 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 0.3 mol, 38 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 6-[4-(L-pyroglutamylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 27.84 g | N1[C@@H](CCC1=O)C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C17H15N3O5
